US08859732B2
2-Methoxy-4-(2′,2′,2′-tris(octadecyloxymethyl)ethoxy)benzaldehyde (288 mg, 280 μmol) was dissolved in THF (3 ml), methanol (0.3 ml) and sodium borohydride (31.8 mg, 841 μmol) were added, and the mixture was stirred at 60° C. for 2 hr. The reaction mixture was cooled to room temperature, 1N hydrochloric acid (5 ml) and chloroform (5 ml) were added, and the mixture was stirred. The aqueous layer was removed, and the organic layer was further washed twice with purified water (5 ml). The organic layer was evaporated under reduced pressure, and the residue was azeotropically distilled with acetonitrile and dried in vacuo to give 2-methoxy-4-(2′,2′,2′-tris(octadecyloxymethyl)ethoxy)benzyl alcohol.

reactant | 2-Methoxy-4-(2′,2′,2′-tris(octadecyloxymethyl)ethoxy)benzaldehyde | 280 μmol, 288 mg | COC1=C(C=O)C=CC(=C1)OCC(COCCCCCCCCCCCCCCCCCC)(COCCCCCCCCCCCCCCCCCC)COCCCCCCCCCCCCCCCCCC | C67H126O6
reactant | methanol | 0.3 ml | CO | CH4O
reactant | sodium borohydride | 841 μmol, 31.8 mg | [BH4-].[Na+]
reactant | hydrochloric acid | 1N, 5 ml | Cl | ClH
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-methoxy-4-(2′,2′,2′-tris(octadecyloxymethyl)ethoxy)benzyl alcohol | COC1=C(CO)C=CC(=C1)OCC(COCCCCCCCCCCCCCCCCCC)(COCCCCCCCCCCCCCCCCCC)COCCCCCCCCCCCCCCCCCC | C67H128O6
